US08530413B2
Analogously to example 6, 2,2-dimethyl-4H-benzo[1,4]oxazin-3-one, iodomethyl pivalate and methyl 3-(4-hydroxyphenyl)hex-4-ynoate were used to obtain 3-[4-(2,2-dimethyl-3-oxo-2,3-dihydrobenzo[1,4]oxazin-4-ylmethoxy)phenyl]hex-4-ynoic acid.

reactant | 2,2-dimethyl-4H-benzo[1,4]oxazin-3-one | CC1(OC2=C(NC1=O)C=CC=C2)C | C10H11NO2
reactant | iodomethyl pivalate | C(C(C)(C)C)(=O)OCI | C6H11IO2
reactant | methyl 3-(4-hydroxyphenyl)hex-4-ynoate | OC1=CC=C(C=C1)C(CC(=O)OC)C#CC | C13H14O3
product | 3-[4-(2,2-dimethyl-3-oxo-2,3-dihydrobenzo[1,4]oxazin-4-ylmethoxy)phenyl]hex-4-ynoic acid | CC1(OC2=C(N(C1=O)COC1=CC=C(C=C1)C(CC(=O)O)C#CC)C=CC=C2)C | C23H23NO5
